US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (250 mg) is dissolved in N,N-dimethylformamide (2 ml), then thereto are added 5-formylpyridin-3-boronic acid pinacol ester (164 mg), tetrakis(triphenylphosphine)palladium (81 mg) and sodium carbonate (90 mg), and the mixture is stirred at 100° C. overnight under nitrogen flow. After allowing to cool to room temperature, a saturated aqueous sodium hydrogen carbonate solution is added to the reaction mixture and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (NH-silica gel; hexane: ethyl acetate=2:1) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-formylpyridin-3-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (119 mg). MS (m/z): 689 [M+H]+

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 250 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)I)CC | C27H26F6IN5O3
reactant | 5-formylpyridin-3-boronic acid pinacol ester | 164 mg | C(=O)C=1C=C(C=NC1)B1OC(C)(C)C(C)(C)O1 | C12H16BNO3
reactant | sodium carbonate | 90 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 81 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(5-formylpyridin-3-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 119 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1C=NC=C(C1)C=O)CC | C33H30F6N6O4
